US05668278
5-Amino-4-cyano-1-(1-methyl-5-trifluoromethyl-3-pyrazolyl)pyrazole
0.85 g (4.72 mmol) 3-Hydrazino-1-methyl-5-trifluoromethylpyrazole and 0.59 g (4.72 mmol) ethoxymethylenemalononitrile in 10 ml ethanol was stirred for 10 hours at room temperature and for 2 hours at 50° C. After addition of 50 ml ethyl acetate, the mixture was washed with saturated aqueous sodium hydrogen carbonate, dried over sodium sulfate, and concentrated. The crude product was purified by silica gel column chromatography (hexane/ethyl acetate).

reactant | 3-Hydrazino-1-methyl-5-trifluoromethylpyrazole | 4.72 mmol, 0.85 g | N(N)C1=NN(C(=C1)C(F)(F)F)C | C5H7F3N4
reactant | ethoxymethylenemalononitrile | 4.72 mmol, 0.59 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Amino-4-cyano-1-(1-methyl-5-trifluoromethyl-3-pyrazolyl)pyrazole | NC1=C(C=NN1C1=NN(C(=C1)C(F)(F)F)C)C#N | C9H7F3N6
